### PR TITLE
Prove correctness of the while loop in BernoulliExpNeg

### PR DESCRIPTION
**Pull request by fzaiser**
This PR `assume`s measurability of sets and independence of values of type `Hurd`. (Proving these is not hard, but tedious, so I'm deferring this to later.)

By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).

### CODE REVIEW

File: src/Math/NatArith.dfy [hunk 1]
```diff
@@ -7,5 +7,14 @@ module NatArith {
     if a < b then a else b
   }
 
+  function Factorial(n: nat, start: nat := 1): nat {
```
Comment (stefan-aws) [inline src/Math/NatArith.dfy:10]: I am having trouble parsing the definition of this one. Is this supposed to calculate `n * (n-1) * ... * start`? If yes, I'm not sure the definition is correct.

File: src/Math/RealArithmetic.dfy [hunk 2]
```diff
@@ -20,6 +20,10 @@ module RealArith {
     Abs(x - y)
   }
 
+  function Pow(base: real, exponent: nat): real {
```
Comment (stefan-aws) [inline src/Math/RealArithmetic.dfy:23]: Should we introduce a file `NatArithmetic.dfy` and move https://github.com/dafny-lang/Dafny-VMC/blob/37093b68240dd3d0592d799fe1f13500f795164a/src/Math/Helper.dfy#L11 from `Helper.dfy` into that new file? I am not entirely happy with the current distinction.

File: src/ProbabilisticProgramming/Loops.dfy [hunk 3]
```diff
@@ -388,6 +388,25 @@ module Loops {
...
   */
 
+  ghost function WhileCutProbability<A(!new)>(condition: A -> bool, body: A -> Monad.Hurd<A>, init: A, resultSet: iset<A>): nat -> real {
+    (fuel: nat) => Rand.prob(Monad.BitstreamsWithValueIn(WhileCut(condition, body, init, fuel), resultSet))
+  }
+
+  lemma {:axiom} WhileProbabilityViaLimit<A(!new)>(condition: A -> bool, body: A -> Monad.Hurd<A>, init: A, resultSet: iset<A>, resultSetRestricted: iset<A>, limit: real)
+    // TODO: we should probably require measurability of condition and independence of body(a) for all a?
+    requires resultSetRestricted == iset a <- resultSet | !condition(a)
+    requires Limits.ConvergesTo(WhileCutProbability(condition, body, init, resultSetRestricted), limit)
```
Comment (stefan-aws) [inline src/ProbabilisticProgramming/Loops.dfy:398]: Very concise, I like it.

File: src/Distributions/BernoulliExpNeg/Correctness.dfy [hunk 4]
```diff
@@ -163,4 +171,321 @@ module BernoulliExpNeg.Correctness {
...
+    assert Rand.prob(event) == if n <= 0 then 0.0 else 1.0 - ExpTerm(gamma.ToReal(), NatArith.Min(n, fuel), k + 1);
+  }
+
+  lemma Le1LoopCorrectnessLe(gamma: Rationals.Rational, n: nat)
+    requires 0 <= gamma.numer <= gamma.denom
+    ensures
+      Rand.prob(Monad.BitstreamsWithValueIn(Model.Le1Loop(gamma)(((true, 0))), iset ak: (bool, nat) | ak.1 <= n))
+      == 1.0 - ExpTerm(gamma.ToReal(), n)
+  {
+
```
Comment (stefan-aws) [inline src/Distributions/BernoulliExpNeg/Correctness.dfy:425]: empty line

File: src/Distributions/BernoulliExpNeg/Correctness.dfy [hunk 5]
```diff
@@ -163,4 +171,321 @@ module BernoulliExpNeg.Correctness {
     requires 0 <= gamma.numer <= gamma.denom
     ensures Independence.IsIndep(Model.SampleLe1(gamma))
 
+
+  lemma Le1LoopIterCorrectness(gamma: Rationals.Rational, k: nat)
```
Comment (stefan-aws) [inline src/Distributions/BernoulliExpNeg/Correctness.dfy:175]: I'd appreciate a few more explanatory comments in this file.

File: src/Distributions/Bernoulli/Correctness.dfy [hunk 6]
```diff
@@ -32,14 +32,45 @@ module Bernoulli.Correctness {
     reveal Model.Sample();
   }
 
+  // The probability mass function (PMF) of the bernoulli distribution
+  function BernoulliMass(numer: nat, denom: nat): bool -> real
```
Comment (stefan-aws) [inline src/Distributions/Bernoulli/Correctness.dfy:36]: Here and elsewhere, could we please have functions `opaque` by default?

File: src/Math/NatArith.dfy (hunk 1 above)
Comment (fzaiser) [reply src/Math/NatArith.dfy:10]: I added a comment

File: src/Math/Measures.dfy [hunk 7]
```diff
@@ -134,6 +134,13 @@ module Measures {
     requires set1 <= set2
     ensures mu(set1) <= mu(set2)
 
+  lemma {:axiom} MeasureOfDisjointUnionIsSum<T>(eventSpace: iset<iset<T>>, mu: iset<T> -> real, set1: iset<T>, set2: iset<T>)
```
[the remark this answers is not in the document]
Comment (fzaiser) [reply src/Math/Measures.dfy:137]: I thought it would be good to have a version that takes arguments since the guidelines say to avoid `forall`s in the postcondition. But I added a proof of this lemma.

File: src/Math/RealArithmetic.dfy (hunk 2 above)
Comment (fzaiser) [reply src/Math/RealArithmetic.dfy:23]: `NatArith.dfy` already exists and has a todo for exactly that. I'll do it in a separate PR: https://github.com/dafny-lang/Dafny-VMC/blob/37093b68240dd3d0592d799fe1f13500f795164a/src/Math/NatArith.dfy#L10

File: src/Distributions/BernoulliExpNeg/Correctness.dfy (hunk 5 above)
Comment (fzaiser) [reply src/Distributions/BernoulliExpNeg/Correctness.dfy:175]: I added comments to the lemmas.

File: src/Math/RealArithmetic.dfy (hunk 2 above)
Comment (stefan-aws) [reply src/Math/RealArithmetic.dfy:23]: Oh, right, my fault. Appreciate a follow up PR.

File: src/Math/Measures.dfy (hunk 7 above)
[the remark this answers is not in the document]
Comment (stefan-aws) [reply src/Math/Measures.dfy:137]: Thanks, and yes, if you want to keep this lemma please add a proof that makes use of `IsAdditive`.

File: src/Distributions/Bernoulli/Correctness.dfy (hunk 6 above)
Comment (fzaiser) [reply src/Distributions/Bernoulli/Correctness.dfy]: Done

**Review by stefan-aws — APPROVED** [review]
